US08492401B2
Preparation of N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-4-phenylthiazole-2-carboxamide
The title compound was prepared according to amide synthesis general method B, utilizing 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline and 4-phenylthiazole-2-carboxylic acid (1.5 eq). Addition of water to the crude reaction did not precipitate the product, therefore it was concentrated, triturated with hot MeCN, MeCN/EtOAc/MeOH mixture, and EtOAC/MeOH sequentially. The resulting pale yellow solid was lyophilized with a MeCN/water/HCl mixture and subsequently purified on prep HPLC. MS Calcd for C30H30N6O2S2: 570.19. Found (M+H)+ m/z=571.

reactant | 2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)aniline | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(N)C=CC=C2 | C20H25N5OS
reactant | 4-phenylthiazole-2-carboxylic acid | 1.5 eq | C1(=CC=CC=C1)C=1N=C(SC1)C(=O)O | C10H7NO2S
solvent | water | O | H2O
product | N-(2-(6-((4-(2-methoxyethyl)piperazin-1-yl)methyl)thiazolo[5,4-b]pyridin-2-yl)phenyl)-4-phenylthiazole-2-carboxamide | COCCN1CCN(CC1)CC=1C=C2C(=NC1)SC(=N2)C2=C(C=CC=C2)NC(=O)C=2SC=C(N2)C2=CC=CC=C2 | C30H30N6O2S2
